US09359362B2
(rac)-Ethyl 7-(4-cyanophenyl)-2-methoxy-5-methyl-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidine-6-carboxylate
Under an atmosphere of argon, ethyl 2-(4-cyanobenzylidene)-3-oxobutanoate (297 mg, 1.2 mmol) and 5-methoxy-1H-1,2,4-triazole-3-amine (153 mg, 1.3 mmol, 1.1 eq.) were dissolved in DMF (2.5 ml), and solid sodium bicarbonate (513 mg, 6.1 mmol, 5 eq.) was added. The mixture was stirred at 65° C. for 12 h. The mixture was then filtered, and the DMF from the filtrate was distilled off under reduced pressure. The residue was purified by preparative HPLC (Gromsil C18 column, 30×250 mm; mobile phase: acetonitrile-water-0.1% TFA). After lyophilization, the product was obtained as a solid (191 mg, 42% of theory).

reactant | ethyl 2-(4-cyanobenzylidene)-3-oxobutanoate | 1.2 mmol, 297 mg | C(#N)C1=CC=C(C=C(C(=O)OCC)C(C)=O)C=C1 | C14H13NO3
reactant | 5-methoxy-1H-1,2,4-triazole-3-amine | 1.3 mmol, 153 mg, 1.1 eq. | COC1=NC(=NN1)N | C3H6N4O
reactant | sodium bicarbonate | 6.1 mmol, 513 mg, 5 eq. | C([O-])(O)=O.[Na+]
solvent | DMF | 2.5 ml | CN(C)C=O | C3H7NO
product | (rac)-Ethyl 7-(4-cyanophenyl)-2-methoxy-5-methyl-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidine-6-carboxylate | C(#N)C1=CC=C(C=C1)C1C(=C(NC=2N1N=C(N2)OC)C)C(=O)OCC | C17H17N5O3
